US04963568
A slurry of 10 g (25 mmol) of 1-aminomethyl-3,4-dihydro-5,6-dimethoxy-3-phenyl-naphthalene hydrochloride, from Step 2, in 150 mL of dichloroethane was cooled to 10° C. under a nitrogen atmosphere. Boron trichloride was passed through the reaction mixture until 27 g (230 mmol) had been added. The reaction mixture was allowed to warm to ambient temperature and stirred for 18 h. The reaction mixture was then recooled in ice and 100 mL of methanol was added dropwise. The reaction mixture was again allowed to warm to ambient temperature and concentrated in vacuo. Twice, 500 mL portions of methanol were added to the residue and it was reconcentrated. The resultant foam was dissolved in 40 mL of ethanol, filtered and the solution was treated with 40 mL of methylene chloride and 80 mL of heptane. Off-white crystals of 1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl naphthalene hydrochloride (5.1 g, 56% yield) were collected by filtration, m.p. 204°-205° C. The 1H NMR spectrum was identical to the spectrum for the product of Example 2A.

reactant | 1-aminomethyl-3,4-dihydro-5,6-dimethoxy-3-phenyl-naphthalene hydrochloride | 25 mmol, 10 g | Cl.NCC1=CC(CC2=C(C(=CC=C12)OC)OC)C1=CC=CC=C1
reactant | Boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | methanol | 100 mL | CO | CH4O
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
product | 1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl naphthalene hydrochloride | 5.1 g, 56% yield | Cl.NCC1=CC(CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1 | InChI=1S/C17H17NO2.ClH/c18-10-13-8-12(11-4-2-1-3-5-11)9-15-14(13)6-7-16(19)17(15)20;/h1-8,12,19-20H,9-10,18H2;1H
